US04657899
Ethyl 4-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxybutanoate
To 1.03 g (44.8 mmol) of sodium in 50 mL of dry ethanol was added 9.72 g (44.8 mmol) of solid diethyl acetamidomalonate portionwise. This solution was stirred at reflux under nitrogen for 2 h. After cooling to room temperature the solvent was removed under reduced pressure yielding a tan solid. This solid was dried under vacuum about 2 h. The sodium salt of diethyl acetamidomalonate was then suspended in 50 mL of dry toluene and 15.0 g (44.8 mmol) of diethyl 2-(2-bromoethyl)benzylphosphonate in 25 mL of toluene was added dropwise. This solution was stirred at reflux under nitrogen for 36 h. After cooling the solution to room temperature the solid precipitate was removed by filtration and washed with 20 mL of toluene. The combined toluene solutions were concentrated under reduced pressure to yield a viscous oil. This oil was chromatographed on a column of silica gel with ethyl acetate as eluant. The combined fractions were concentrated under pressure to give 7.2 g (34%) of the product as a clear viscous oil. IR(neat): 1745, 1676 (C=O) cm-1. 1H NMR(CDCl3) δ 1.0-6 (m, 12H); 1.8-3.2 (complex m, 9H); 3.7-4.6 (m, 8H); 6.8-7.4 (m, 5). Anal. Calcd. for C22H34NO8P0.5H2O: C, 54.99; H, 7.34; N, 2.92. Found: C, 54.75; H, 7.37; N, 2.97.

reactant | sodium | 44.8 mmol, 1.03 g | [Na] | Na
reactant | diethyl acetamidomalonate | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | diethyl 2-(2-bromoethyl)benzylphosphonate | 44.8 mmol, 15.0 g | BrCCC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C13H20BrO3P
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-[2-(diethylphosphonomethyl)phenyl]-2-acetamido-2-carboethoxybutanoate | 7.2 g, 34% | C(C)OP(=O)(OCC)CC1=C(C=CC=C1)CCC(C(=O)OCC)(C(=O)OCC)NC(C)=O | C22H34NO8P
